US04285941
In accordance with the procedure described in Example 5-a), 7-hydroxychromone-3-carboxylic acid (206 mg, 1 mmol) was treated with thionyl chloride (0.3 ml, 4.1 mmol) to obtain 7-hydroxychromone-3-carbonyl chloride.

reactant | 7-hydroxychromone-3-carboxylic acid | 1 mmol, 206 mg | OC1=CC=C2C(C(=COC2=C1)C(=O)O)=O | C10H6O5
reactant | thionyl chloride | 4.1 mmol, 0.3 ml | S(=O)(Cl)Cl | Cl2OS
product | 7-hydroxychromone-3-carbonyl chloride | OC1=CC=C2C(C(=COC2=C1)C(=O)Cl)=O | C10H5ClO4
